US05532248
To a stirred mixture of 17-ethyl-1,14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (150 mg, 0.19 mmol, 1 eq) and Cu(OAc)2 (6 mg, 0.033 mmol, 0.17 eq) in CH2Cl2 (2 ml) in a round bottom flask equipped with a magnetic stir-bar was added tri(1-naphthyl)bismuth diacetate [prepared immediately prior to use by addition of acetic acid (0.070 ml, 1.22 mmol, 6.4 eq) to a suspension of tri(1-naphthyl)bismuth carbonate (150 mg, 0.23 mmol, 1.2 eq)in CH2Cl2 (2 ml)]. The reaction flask was then fitted with a reflux condenser a 2nd the mixture was warmed to 40° C. for 4 hours. After stirring an additional 16 hours at room temperature TLC analysis showed the reaction to be incomplete. The reaction mixture was further treated with tri(1-naphthyl)bismuth diacetate (0.15 mmol) and heated to 40° C. for 4 hours. The mixture was cooled, diluted with saturated aqueous NaHCO3, and extracted 2 times with CH2Cl2. The extracts were combined, dried over anhydrous Na2SO4, filtered, and concentrated in vacuo. The product was isolated and purified 2 times by preparative TLC on silica gel (3:1 hexanes/acetone) to give 38 mg of 17 -ethyl-1,14-dihydroxy-12-[2'-(4"-(naphth-1-yloxy)-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo-[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone. (1H NMR analysis was consistent with the desired structure).

reactant | 17-ethyl-1,14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 0.19 mmol, 150 mg, 1 eq | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)OC)C)C)O)=O | C43H69NO12
reactant | tri(1-naphthyl)bismuth diacetate | C(C)(=O)O.C(C)(=O)O.C1(=CC=CC2=CC=CC=C12)[Bi](C1=CC=CC2=CC=CC=C12)C1=CC=CC2=CC=CC=C12
reactant | acetic acid | 1.22 mmol, 0.070 ml, 6.4 eq | C(C)(=O)O | C2H4O2
reactant | tri(1-naphthyl)bismuth carbonate | 0.23 mmol, 150 mg, 1.2 eq | C(O)(O)=O.C1(=CC=CC2=CC=CC=C12)[Bi](C1=CC=CC2=CC=CC=C12)C1=CC=CC2=CC=CC=C12
reactant | tri(1-naphthyl)bismuth diacetate | 0.15 mmol | C(C)(=O)O.C(C)(=O)O.C1(=CC=CC2=CC=CC=C12)[Bi](C1=CC=CC2=CC=CC=C12)C1=CC=CC2=CC=CC=C12
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
catalyst | Cu(OAc)2 | 0.033 mmol, 6 mg, 0.17 eq | CC(=O)[O-].CC(=O)[O-].[Cu+2]
product | 17 -ethyl-1,14-dihydroxy-12-[2'-(4"-(naphth-1-yloxy)-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo-[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 38 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OC2=CC=CC1=CC=CC=C21)OC)C)C)O)=O | C53H75NO12
